US03997586
Using the procedure of Example I, 1-bromo-3-isopropyl-4-methyl-2-pentene was reacted with sodium phenyl sulfinate to form (3-isopropyl-4-methyl-2-pentenyl)-phenyl sulfone having a melting point of 50° C which was then reacted with ethyl β,β-dimethylacrylate to form ethyl dl-trans 3,3-dimethyl-2-(2'-isopropyl-3'-methyl-1'-butenyl)-cyclopropanecarboxylate. The said ethyl ester was hydrolyzed under alkaline conditions to form dl-trans 3,3-dimethyl-2-(2'-isopropyl-3'-methyl-1'-butenyl)-cyclopropane carboxylic acid having a melting point of 135° C which was then reacted with thionyl chloride to form dl-trans 3,3-dimethyl-2-(2'-isopropyl-3'-methyl-1'-butenyl)-cyclopropanecarboxylic acid chloride having a boiling point of 78° to 80° C at 0.1 mm Hg.

reactant | 1-bromo-3-isopropyl-4-methyl-2-pentene | BrCC=C(C(C)C)C(C)C | C9H17Br
reactant | sodium phenyl sulfinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
product | (3-isopropyl-4-methyl-2-pentenyl)-phenyl sulfone | C(C)(C)C(=CCS(=O)(=O)C1=CC=CC=C1)C(C)C | C15H22O2S
